US05288751
To a stirred solution of saturated NaHCO3 was added 3-picolyl chloride hydrochloride (8.2 g, 50 mmol). After gas evolution ended, the mixture was extracted with CH2Cl2. The organic phase was dried (MgSO4) and concentrated in vacuo. To the resulting residue was added triethylphosphite (8.3 g, 50 mmol) and the neat mixture was stirred and heated to 85° C. overnight. The mixture was cooled and purified by flash column chromotography on silica gel eluting with 5% MeOH--CH2Cl2 to afford 3.0 g of diethyl 3-pyridylmethylphosphonate as a yellow oil.

reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | 3-picolyl chloride hydrochloride | 50 mmol, 8.2 g | Cl.N1=CC(=CC=C1)CCl
reactant | triethylphosphite | 50 mmol, 8.3 g | C(C)OP(OCC)OCC | C6H15O3P
product | diethyl 3-pyridylmethylphosphonate | 3.0 g | N1=CC(=CC=C1)CP(OCC)(OCC)=O | C10H16NO3P
